US08258130B2
A solution of 4-methyl-2-pyridin-3-yl-pyrimidine-5-carboxylic acid (502 mg, 2.33 mmol), HCTU (1.054 g, 2.55 mmol), and DIPEA (1.10 mL, 6.30 mmol) in DMF (10 mL) is stirred at rt under N2 for 10 min. 5-Fluoro-3-methyl-indol-1-ylamine (341 mg, 2.08 mmol) is added. The resulting mixture is stirred at rt overnight. The mixture is portioned between EtOAc and water. The organic phase is separated, washed with saturated aqueous NaHCO3, water and brine, dried (MgSO4), filtered and concentrated in vacuo. The residue is triturated in ether (4 times) to afford 4-methyl-2-pyridin-3-yl-pyrimidine-5-carboxylic acid (5-fluoro-3-methyl-indol-1-yl)-amide (160 mg, 21%) as a solid. MS: 362 (M+H). 1H NMR (300 MHz, DMSO-d6): δ 11.86 (s, 1H), 9.58 (s, 1H), 9.24 (s, 1H), 8.79-8.78 (m, 1H), 8.74 (td, 1H), 7.62 (dd, 1H), 7.44 (dd, 1H), 7.37-7.36 (m, 2H), 7.06 (td, 1H), 2.78 (s, 3H), 2.27 (s, 3H).

reactant | 4-methyl-2-pyridin-3-yl-pyrimidine-5-carboxylic acid | 2.33 mmol, 502 mg | CC1=NC(=NC=C1C(=O)O)C=1C=NC=CC1 | C11H9N3O2
reactant | HCTU | 2.55 mmol, 1.054 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 6.30 mmol, 1.10 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-Fluoro-3-methyl-indol-1-ylamine | 2.08 mmol, 341 mg | FC=1C=C2C(=CN(C2=CC1)N)C | C9H9FN2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-methyl-2-pyridin-3-yl-pyrimidine-5-carboxylic acid (5-fluoro-3-methyl-indol-1-yl)-amide | 160 mg, 21% | FC=1C=C2C(=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C=1C=NC=CC1)C)C | C20H16FN5O
